US08293768B2
To a stirred suspension of ethyl 3-methyl-5-(phenoxycarbonylamino)-thiophene-2-carboxylate (18.89 g, 61.86 mmol) in tetrahydrofuran (130 mL) was added hydrazine monohydrate (19.0 mL, 391.7 mmol). The resulting reaction mixture was stirred for 2.5 h, and then concentrated in vacuo. The residue was triturated with ethyl acetate to afford ethyl 5-(hydrazinecarboxamido)-3-methylthiophene-2-carboxylate as a yellowish solid in 89% yield (13.30 g): MS (ES+) m/z 244.2 (M+1).

reactant | ethyl 3-methyl-5-(phenoxycarbonylamino)-thiophene-2-carboxylate | 61.86 mmol, 18.89 g | CC1=C(SC(=C1)NC(=O)OC1=CC=CC=C1)C(=O)OCC | C15H15NO4S
reactant | hydrazine monohydrate | 391.7 mmol, 19.0 mL | O.NN
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | ethyl 5-(hydrazinecarboxamido)-3-methylthiophene-2-carboxylate | 89% yield | N(N)C(=O)NC1=CC(=C(S1)C(=O)OCC)C | C9H13N3O3S
